US07342014B2
3-Chlorobenzenediazonium tetrafluoroborate
3-Chloroaniline (2.0 g) was dissolved in a mixed solvent of water (30 ml) and concentrated hydrochloric acid (3.5 ml), and sodium nitrite (1.30 g) was added under ice cooling to stir the mixture for 10 minutes. After concentrated hydrochloric acid (5.3 ml) and sodium tetrafluoroborate (6.90 g) were added to the reaction mixture to stir the mixture for 30 minutes under ice cooling, precipitate was collected by filtration and washed with water, methanol and diethyl ether to obtain the title compound (2.63 g). This compound was used in the next reaction as it was.

reactant | 3-Chloroaniline | 2.0 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium nitrite | 1.30 g | N(=O)[O-].[Na+]
reactant | sodium tetrafluoroborate | 6.90 g | F[B-](F)(F)F.[Na+]
solvent | water | 30 ml | O | H2O
solvent | hydrochloric acid | 3.5 ml | Cl | ClH
solvent | hydrochloric acid | 5.3 ml | Cl | ClH
product | 3-Chlorobenzenediazonium tetrafluoroborate | 2.63 g | F[B-](F)(F)F.ClC=1C=C(C=CC1)[N+]#N | InChI=1S/C6H4ClN2.BF4/c7-5-2-1-3-6(4-5)9-8;2-1(3,4)5/h1-4H;/q+1;-1
